US06043248
(E)-4-[(4-Amino-6-chloro-2-pyrimidinyl)thio]-2-butenoic acid methyl ester (Cpd #193)
4-Amino-6-chloro-2-mercaptopyrimidine mesylate (0.30 g, 1.16 mmol) is dissolved in 3.25N sodium hydroxide (2 ml) and ethanol (1 ml) at ambient temperature followed by the addition of methyl 4-bromocrotonate (0.16 ml, 1.40 mmol). The reaction is stirred for 2 to 15 hours, quenched with excess water, extracted with methylene chloride (2×25 ml). The extracts are combined, washed with saline (25 ml), dried over sodium sulfate, concentrated in vacuo and recrystallized from hexane/ethyl acetate to give Cpd #193. mp 146-149° C.

reactant | 4-Amino-6-chloro-2-mercaptopyrimidine mesylate | 1.16 mmol, 0.30 g | S(C)(=O)(=O)O.NC1=NC(=NC(=C1)Cl)S
reactant | ethanol | 1 ml | C(C)O | C2H6O
reactant | methyl 4-bromocrotonate | 1.40 mmol, 0.16 ml | BrC/C=C/C(=O)OC | C5H7BrO2
solvent | sodium hydroxide | 3.25N, 2 ml | [OH-].[Na+]
product | (E)-4-[(4-Amino-6-chloro-2-pyrimidinyl)thio]-2-butenoic acid methyl ester | COC(\C=C\CSC1=NC(=CC(=N1)N)Cl)=O | C9H10ClN3O2S
